US07897619B2
A mixture of 6-(4-nitro-1H-pyrazol-1-yl)isoquinoline (367 mg, 1.53 mmol) and 10 wt. % palladium on activated carbon (163 mg, 153 μmol) in THF (15 mL) was stirred under an atmosphere of hydrogen at ambient temperature for 4 hours. The mixture was filtered through a Celite pad that was washed with THF (30 mL), and the combined filtrates were concentrated under reduced pressure. The resulting yellow solid was dissolved in MeOH/DCM, evaporated onto silica gel, and purified by flash chromatography (Biotage Si 40+M, 3% to 8% MeOH/DCM) to provide 1-(isoquinolin-6-yl)-1H-pyrazol-4-amine (264 mg, 82% yield) as a yellow solid. LCMS (API-ES) m/z (%): 211.2 (100%, M++H); 1H NMR (300 MHz, CDCl3) δ ppm 3.01 (br s, 2H), 7.48 (s, 1H), 7.62-7.69 (m, 2H), 7.93 (s, 1H), 7.96-8.06 (m, 2H), 8.52 (d, J=5.8 Hz, 1H), 9.22 (s, 1H).

reactant | 6-(4-nitro-1H-pyrazol-1-yl)isoquinoline | 1.53 mmol, 367 mg | [N+](=O)([O-])C=1C=NN(C1)C=1C=C2C=CN=CC2=CC1 | C12H8N4O2
catalyst | palladium on activated carbon | 153 μmol, 163 mg | [Pd] | Pd
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-(isoquinolin-6-yl)-1H-pyrazol-4-amine | 264 mg, 82% yield | C1=NC=CC2=CC(=CC=C12)N1N=CC(=C1)N | C12H10N4
